US08247418B2
STEP 1. ETHYL 3-(4-(1H-BENZO[D]IMIDAZOLE-2CARBONYL)PHENOXY)PYRAZINE-2-CARBOXYLATE
In a 2 L autoclave was added a solution (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (5.0 g, 14.2 mmol) in ethanol (150 mL), followed by dppf (0.273 g, 0.42 mmol), palladium acetate (25 mg, 0.11 mmol) and sodium acetate (4.65 g, 56.8 mmol). The autoclave was applied CO(g) 15 kg/cm2 pressure. Then the reaction mixture was heated to 135° C. and maintained at that temperature for 1 h. After cooling to RT, the reaction mixture was concentrated and diluted with water, then extracted by ethyl acetate (3×200 mL). The combined organic extracts were dried over sodium sulfate and concentrate under vacuum to give a dark brown solid which was used directly in the following step. MS [M+H]=389.1.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 14.2 mmol, 5.0 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
reactant | sodium acetate | 56.8 mmol, 4.65 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 150 mL | C(C)O | C2H6O
catalyst | dppf | 0.42 mmol, 0.273 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ETHYL 3-(4-(1H-BENZO[D]IMIDAZOLE-2CARBONYL)PHENOXY)PYRAZINE-2-CARBOXYLATE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C(=O)OCC)C=C2 | C21H16N4O4
